US08623859B2
4-Methoxy-N,2,6-trimethyl-N-{[3-({4-[(1-methylpiperidin-4-yl)methyl]piperazin-1-yl}carbonyl)-1,2,4-oxadiazol-5-yl]methyl}benzenesulfonamide
The title compound was prepared according to general procedure AT using ethyl 5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-1,2,4-oxadiazole-3-carboxylate (35 mg, 0.09 mmol), 1-[(1-methylpiperidin-4-yl)methyl]piperazine (34 mg, 0.17 mmol) and trimethylaluminium (2 M in toluene, 0.08 mL) in DCE (3 mL). A portion of the crude product was purified using prep method D.

reactant | ethyl 5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-1,2,4-oxadiazole-3-carboxylate | 0.09 mmol, 35 mg | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(C)CC1=NC(=NO1)C(=O)OCC)C | C16H21N3O6S
reactant | 1-[(1-methylpiperidin-4-yl)methyl]piperazine | 0.17 mmol, 34 mg | CN1CCC(CC1)CN1CCNCC1 | C11H23N3
reactant | trimethylaluminium | 2 M, 0.08 mL | C[Al](C)C
solvent | DCE | 3 mL | ClCCCl | C2H4Cl2
product | 4-Methoxy-N,2,6-trimethyl-N-{[3-({4-[(1-methylpiperidin-4-yl)methyl]piperazin-1-yl}carbonyl)-1,2,4-oxadiazol-5-yl]methyl}benzenesulfonamide | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(CC1=NC(=NO1)C(=O)N1CCN(CC1)CC1CCN(CC1)C)C)C | C25H38N6O5S
